US05489495
The thus obtained N,N,N'-tris(4-methylphenyl)-N'-acetyl-3,3',5,5'-tetramethylbenzidine was hydrolyzed, and the hydrolyzed product and 1-iodo-pyrene were subjected to the same Ullmann reaction as in Preparation Example 1-6, whereby N,N,N'-tris(4-methylphenyl)-N'-(1-pyrenyl)-3,3',5,5'-tetramethylbenzidine (m.p. 198.0°-199.0° C.) was obtained.

reactant | N,N,N'-tris(4-methylphenyl)-N'-acetyl-3,3',5,5'-tetramethylbenzidine | CC1=CC=C(C=C1)N(C1=C(C=C(C=C1C)C1=CC(=C(N(C(C)=O)C2=CC=C(C=C2)C)C(=C1)C)C)C)C1=CC=C(C=C1)C | C39H40N2O
reactant | 1-iodo-pyrene | IC1=CC=C2C=CC3=CC=CC4=CC=C1C2=C34 | C16H9I
product | N,N,N'-tris(4-methylphenyl)-N'-(1-pyrenyl)-3,3',5,5'-tetramethylbenzidine | CC1=CC=C(C=C1)N(C1=C(C=C(C=C1C)C1=CC(=C(N(C2=CC=C3C=CC4=CC=CC5=CC=C2C3=C45)C4=CC=C(C=C4)C)C(=C1)C)C)C)C1=CC=C(C=C1)C | C53H46N2
